US07569571B2
B. N-Cyclopropyl-3-hydrazino-4-methyl-benzamide
To a stirred solution of 3-Amino-N-cyclopropyl-4-methyl-benzamide (52 mg, 0.27 mmol) in water (3 ml) at 0° C. was added conc. HCl (3 mL) followed by the addition of sodium nitrite (20 mg, 0.30 mmol). The reaction mixture was stirred at 0° C. for 40 min then a solution of tin(II)chloride (114 mg, 0.61 mmol) in conc. HCl (1 mL) was added and the mixture was stirred for 1 hr then allowed to stand at −20° C. for 20 hr before it was warmed to RT. It was neutralized with Na2CO3 solution and extracted with CH2Cl2 six times. The combined extracts were dried over Na2SO4, concentrated, and the resulting solid was used without further purification. HPLC tR 1.06 min; MS m/z 205.9 [M+H]+.

reactant | 3-Amino-N-cyclopropyl-4-methyl-benzamide | 0.27 mmol, 52 mg | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
reactant | sodium nitrite | 0.30 mmol, 20 mg | N(=O)[O-].[Na+]
reactant | tin(II)chloride | 0.61 mmol, 114 mg | [Sn](Cl)Cl
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 3 ml | O | H2O
solvent | HCl | 1 mL | Cl | ClH
solvent | HCl | 3 mL | Cl | ClH
product | N-Cyclopropyl-3-hydrazino-4-methyl-benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)NN)=O | C11H15N3O
